US04046773
A solution of 15.3 g. (0.1 mol.) of 4-chlorophenyl-isocyanate in 120 ml. of toluene is added dropwise to the stirred solution of 8.61 g. (0.105 mol.) of 2-methyl-imidazole in 60 ml. of water at 10° to 12° C., under cooling. The reaction mixture is stirred at room temperature for one hour. The separated product is filtered off, washed with water and dried. 17.4 g. (74%) of 1-(4-chlorophenyl)-carbamoyl-2-methylimidazole are obtained; m.p.: 138°-140° C.

reactant | 4-chlorophenyl-isocyanate | 0.1 mol | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2-methyl-imidazole | 0.105 mol | CC=1NC=CN1 | C4H6N2
reactant | water | O | H2O
product | 1-(4-chlorophenyl)-carbamoyl-2-methylimidazole | 74% | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(N)=O)C | C11H10ClN3O
